US06685995B1
Trifluoroacetylbenzotriazole in an amount of 4.0 g (18.6 mmol) was dissolved in 50 ml of THF, 2.3 g (10.9 mmol) of 4-(4-ethylcyclohexyl)cyclohexanol was added thereto, they were subjected to a reflux for 1 hour, and then the solvent was distilled off. After the residue was purified by column chromatography on silica gel (eluent: heptane/ethyl acetate=8/1), the solvent was distilled off, and the residue was subjected twice to recrystallization by using heptane to give 1.8 g (5.9 mmol) of trifluoroacetic acid 4-(4-ethylcyclohexyl)cyclohexyl ester. Yield of this compound based on 4-(4-ethylcyclohexyl)cyclohexanol was 54%.

reactant | Trifluoroacetylbenzotriazole | FC(C(=O)C1=CC=CC=2NN=NC21)(F)F | C8H4F3N3O
reactant | 4-(4-ethylcyclohexyl)cyclohexanol | 10.9 mmol, 2.3 g | C(C)C1CCC(CC1)C1CCC(CC1)O | C14H26O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | trifluoroacetic acid 4-(4-ethylcyclohexyl)cyclohexyl ester | 5.9 mmol, 1.8 g | C(C)C1CCC(CC1)C1CCC(CC1)OC(C(F)(F)F)=O | C16H25F3O2
